US07595320B2
N′-Benzhydrylidene-N-(4-chlorophenyl)-N-cyclobutylmethylhydrazine
Rf=0.77. (30/70 EtOAc/heptane (v/v)) (immediate deprotection). N-Benzhydrylidene-N′-(4-chlorophenyl)hydrazine is described in example 28.

reactant | N-Benzhydrylidene-N′-(4-chlorophenyl)hydrazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC=C(C=C1)Cl | C19H15ClN2
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | N′-Benzhydrylidene-N-(4-chlorophenyl)-N-cyclobutylmethylhydrazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN(CC1CCC1)C1=CC=C(C=C1)Cl | C24H23ClN2
